US08222430B2
Synthesis of (4-chlorophenyl)-(3,4,4a,5,6,8a-hexahydro-thiochromene-2-ylidene)-amine
10 ml of THF solution including 2.4 g of iodine was added to 40 ml of THF solution including 2.2 g of N-(4-chlorophenyl)-3-(2-cyclohexene-1-yl) thiopropionamide at 0° C. The temperature was raised to room temperature and the resulting solution was stirred for one night. Then the temperature was cooled to 0° C., and 5 ml of THF solution including 4.1 g of 1,4 diazabicyclo[5,4,0]undec-7-ene(DBU) was dropped into the resulting solution. The solution was stirred at room temperature for one night, and added with water, and extracted with ethyl acetate. The organic layer was washed with brine, dried with anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to obtain 0.84 of the title compound.

reactant | THF | 10 ml | C1CCOC1 | C4H8O
reactant | iodine | 2.4 g | II | I2
reactant | THF | 40 ml | C1CCOC1 | C4H8O
reactant | N-(4-chlorophenyl)-3-(2-cyclohexene-1-yl) thiopropionamide | 2.2 g | ClC1=CC=C(C=C1)NC(CCC1C=CCCC1)=S | C15H18ClNS
reactant | THF | 5 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | (4-chlorophenyl)-(3,4,4a,5,6,8a-hexahydro-thiochromene-2-ylidene)-amine | ClC1=CC=C(C=C1)N=C1SC2C=CCCC2CC1 | C15H16ClNS
